US04461895
4.5 g. (12.2 mmol) (+)-6-Allyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline are reacted in 230 ml. of a mixture of toluene and dimethylformamide (9:1 v/v) with 20 ml. of a 1N solution of phenyltrimethylammonium hydroxide in methanol as described in Variant 1. After appropriate working up, there is obtained (+)-6-allyl-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-4H-dibenzo(de,g)quinoline, which is identical in every respect to the product obtained according to Variant 1. [α]DRT (hydrochloride): +117.7° (c=0.5, methanol).

reactant | (+)-6-Allyl-5,6,6a,7-tetrahydro-1-hydroxy-2,9,10-trimethoxy-4H-dibenzo(de,g)quinoline | 12.2 mmol | C(C=C)N1CCC=2C3=C(C4=C(CC13)C=C(C(=C4)OC)OC)C(=C(C2)OC)O | C22H25NO4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | phenyltrimethylammonium hydroxide | [OH-].C1(=CC=CC=C1)[N+](C)(C)C
solvent | methanol | CO | CH4O
product | (+)-6-allyl-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-4H-dibenzo(de,g)quinoline | C(C=C)N1CCC=2C3=C(C4=C(CC13)C=C(C(=C4)OC)OC)C(=C(C2)OC)OC | C23H27NO4
